US07795284B2
1.3) 5-Methoxy-2-(morpholin-4-ylcarbonyl)-1,3-benzothiazol-4-amine
20 mg of 10% palladium on activated carbon is added to 210 mg (0.65 mmol) of 5-methoxy-2-(morpholin-4-ylcarbonyl)-4-nitro-1,3-benzothiazole in solution in 10 ml of methanol. The reaction medium is then placed under stirring under a hydrogen atmosphere for 18 hours. The catalyst is then filtered out and the solvent is evaporated off. 173 mg of the expected product (gross yield=91%) is obtained in the form of a yellow oil and is used in the following stage without other purification.

reactant | 5-methoxy-2-(morpholin-4-ylcarbonyl)-4-nitro-1,3-benzothiazole | 0.65 mmol, 210 mg | COC=1C=CC2=C(N=C(S2)C(=O)N2CCOCC2)C1[N+](=O)[O-] | C13H13N3O5S
catalyst | palladium on activated carbon | 20 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 5-Methoxy-2-(morpholin-4-ylcarbonyl)-1,3-benzothiazol-4-amine | 173 mg, yield=91% | COC1=CC=C2C(N=C(S2)C(=O)N2CCOCC2)=C1N | C13H15N3O3S
